US06166006
In acetic acid (100 ml) was dissolved N-(2-methoxyethyl)-N-methyl-4-nitrobenzylamine (5.9 g), and to the mixture was added reduced iron (7.5 g) little by little. The mixture was stirred at room temperature overnight, and the solvent was evaporated. To the residue was added ethyl acetate, and precipitates were filtered off. The filtrate was washed with sodium hydroxide solution, water and saturated brine, and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 4-((N-(2-methoxyethyl)-N-methylamino)methyl)aniline (3.4 g) as red oil.

reactant | N-(2-methoxyethyl)-N-methyl-4-nitrobenzylamine | 5.9 g | COCCN(C)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H16N2O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-((N-(2-methoxyethyl)-N-methylamino)methyl)aniline | 3.4 g | COCCN(C)CC1=CC=C(N)C=C1 | C11H18N2O
